US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 5-bromo-2-chloro-N4-(3-hydroxyphenyl)-4-pyrimidineamine and 3,4-ethylenedioxyaniline were reacted to yield 5-bromo-N2-(3,4-ethylenedioxyphenyl)-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 9.33 (s, 1H), 9.06 (s, 1H), 8.34 (s, 1H), 8.14 (s, 1H), 7.13–7.06-(m, 4H), 6.94 (bs, 1H), 6.61 (d, 1H, J=8.7 Hz), 6.54–6.50 (m, 1H), 4.17–4.13 (m, 4H); LCMS: ret. time: 20.01 min.; purity: 93%; MS (m/e): 416 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 5-bromo-2-chloro-N4-(3-hydroxyphenyl)-4-pyrimidineamine | BrC=1C(=NC(=NC1)Cl)NC1=CC(=CC=C1)O | C10H7BrClN3O
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | 5-bromo-N2-(3,4-ethylenedioxyphenyl)-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | BrC=1C(=NC(=NC1)NC1=CC2=C(C=C1)OCCO2)NC2=CC(=CC=C2)O | C18H15BrN4O3
